US07612103B2
1.684 g of 3-acetoxy-4-bromo-N—(N-BOC-valyl)-piperidine dissolved in 4 ml of toluene are treated with 4 ml of DBU in a sealed tube and heated to 90°. The mixture obtained is treated with EE, extracted with aqueous HCl, washed and from the organic phase obtained solvent is evaporated. 3-Acetoxy-N—(N-BOC-(R)-valyl)-1,2,3,6-tetrahydropyridine is obtained.

reactant | 3-acetoxy-4-bromo-N—(N-BOC-valyl)-piperidine | 1.684 g | C(C)(=O)OC1CN(CCC1Br)C([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O | C17H29BrN2O5
reactant | DBU | 4 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Acetoxy-N—(N-BOC-(R)-valyl)-1,2,3,6-tetrahydropyridine | C(C)(=O)OC1CN(CC=C1)C([C@H](NC(=O)OC(C)(C)C)C(C)C)=O | C17H28N2O5
